US08802670B2
2-Chloro-6-(4-methylsulfonyl-piperazine-1-yl-methyl)-4-morpholin-4-yl-thieno[3,2-d}pyrimidine was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline in General Procedure A. Purification on silica yielded 4-[6-(4-Methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-aniline. This was then reacted with acetic anhydride in dichloromethane and triethylamine to give the desired compound.

reactant | 2-Chloro-6-(4-methylsulfonyl-piperazine-1-yl-methyl)-4-morpholin-4-yl-thieno[3,2-d}pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H22ClN5O3S2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
product | 4-[6-(4-Methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-aniline | CS(=O)(=O)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=CC=C(N)C=C1 | C22H28N6O3S2
